US06251925B1
(R)-5-[3-[[2-[[2-(3-Chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]phenyl]-2,3-dihydro-7-benzofurancarboxylic acid methyl ester as a foam (691 mg);
TLC Rf (4:1 hexane/ethyl acetate)=0.14; from 5-(3-aminophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester (500 mg) and (R)-[(tert-butoxycarbonyl)-[2-(tert-butyldimethylsilanoxy)-2-(3-chlorophenyl)ethyl]amino]-acetaldehyde (1.3 g).

reactant | 5-(3-aminophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester | 500 mg | COC(=O)C1=CC(=CC=2CCOC21)C2=CC(=CC=C2)N | C16H15NO3
reactant | (R)-[(tert-butoxycarbonyl)-[2-(tert-butyldimethylsilanoxy)-2-(3-chlorophenyl)ethyl]amino]-acetaldehyde | 1.3 g | C(C)(C)(C)OC(=O)N(C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C)CC=O | C21H34ClNO4Si
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (R)-5-[3-[[2-[[2-(3-Chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]phenyl]-2,3-dihydro-7-benzofurancarboxylic acid methyl ester | COC(=O)C1=CC(=CC=2CCOC21)C2=CC(=CC=C2)NCCN(C(=O)OC(C)(C)C)C[C@H](O[Si](C)(C)C(C)(C)C)C2=CC(=CC=C2)Cl | C37H49ClN2O6Si
